* C:\Users\tomto\Documents\skola\NAO\cv1\P21-mos.asc
Vgs N001 VG 0.5
VDS N001 0 1.8
M1 0 VG N001 N001 pch l='Ltab' w='Wtab'
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\tomto\AppData\Local\LTspice\lib\cmp\standard.mos
* .lib modely/cmos018.txt
* .PARAM Wtab = table(n, 1,0.22u, 2,1u, 3,2u, 4,2u, 5,5u, 6,5u, 7,10u, 8,10u, 9,40u)
* .PARAM Ltab = table(n, 1,0.18u, 2,0.5u, 3,0.5u, 4,1u, 5,1u, 6,2u, 7,5u, 8,10u, 9,10u)
* .dc VGS 0 1 1m
* .STEP param n 1 9 1
* .MEAS DC VTH FIND '1.8-V(VG)' WHEN Is(m1)=1e-7*{Wtab/Ltab}
.lib modely/cmos018.txt
.param Wtab=table(n, 1,0.22u, 2,1u, 3,2u, 4,2u, 5,5u, 6,5u, 7,10u, 8,10u, 9,40u)
.param Ltab=table(n, 1,0.18u, 2,0.5u, 3,0.5u, 4,1u, 5,1u, 6,2u, 7,5u, 8,10u, 9,10u)
.step param n 1 9 1
.meas DC UTH FIND '1.5-V(VG)' WHEN Is(M1)=1e-7*Wtab/Ltab
.dc VGS 0 1 1m
.backanno
.end
