* C:\Users\tomto\Documents\skola\Skola\NAO\cv5\LT_data\simAC.asc
VDD UCC USS 1.8
VGND USS 0 0
VIN N003 0 0.9 AC 1
CL OUT 0 10p
M1 N001 OUT N004 USS nch l=2u w=15u
M2 N002 N003 N004 USS nch l=2u w=15u
M3 N004 N005 USS USS nch l=2u w=30u
M4 N002 N001 UCC UCC pch l=2u w=60u
M5 N001 N001 UCC UCC pch l=2u w=60u
M6 OUT N005 USS USS nch l=2u w=150u
M7 OUT N002 UCC UCC pch l=2u w=600u
M8 N005 N005 USS USS nch l=2u w=10u
R1 UCC N005 60k
Cc1 OUT N002 5p
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\tomto\AppData\Local\LTspice\lib\cmp\standard.mos
* .ac dec 100 1 100Meg
* .option logopinfo
.op
.inc cmos018.txt
.backanno
.end
